US08278307B2
3-Chloro-4-((4-methylpiperazin-1-yl)methyl)aniline:
To a solution of 1-(2-chloro-4-nitrobenzyl)-4-methylpiperazine (0.96 g, 3.6 mmol) in MeOH/water (4:1, 50 mL) was added 1.80 g (33.7 mmol) of NH4Cl and 1.47 g (26.3 mmol) of Fe dust and the mixture heated at reflux under an atmosphere of N2 for 2 h (HPLC indicated no progress). To this was added 4 mL of glacial acetic acid and the mixture heated at reflux for an additional 2 h. The reaction mixture was cooled to ambient temperature, filtered, and the filtrate concentrated. The residue was partitioned between EtOAc and saturated aq. NaHCO3, the separated aqueous layer was extracted with EtOAc, and the combined organics washed with brine and dried over Na2SO4. Upon concentration, the crude product was purified by silica gel chromatography (eluted with 5-7% MeOH/DCM; silica gel deactivated with 1% triethylamine/DCM) to provide 0.53 g of product.

reactant | 1-(2-chloro-4-nitrobenzyl)-4-methylpiperazine | 3.6 mmol, 0.96 g | ClC1=C(CN2CCN(CC2)C)C=CC(=C1)[N+](=O)[O-] | C12H16ClN3O2
reactant | NH4Cl | 33.7 mmol, 1.80 g | [NH4+].[Cl-]
reactant | acetic acid | 4 mL | C(C)(=O)O | C2H4O2
solvent | MeOH water | 50 mL | CO.O
catalyst | Fe | 26.3 mmol, 1.47 g | [Fe] | Fe
product | 3-Chloro-4-((4-methylpiperazin-1-yl)methyl)aniline | 0.53 g | ClC=1C=C(N)C=CC1CN1CCN(CC1)C | C12H18ClN3
